US09340556B2
To a suspension of ethyl 3-hydroxy-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (6.7 g, 27.1 mmol) in N,N-dimethylformamide (18.0 ml) at 0° C. was added sodium hydride (2.168 g, 54.2 mmol), and the mixture was stirred for 20 min. At this time, 1-(chloromethyl)-4-methoxybenzene (3.7 ml, 27.3 mmol) was added and the reaction was heated to 75° C. and allowed to stir for 2 h. After cooling, the reaction was poured into ice, and the resulting precipitate was filtered, washed with water and diethyl ether, collected, and dried. Methanol (24.00 ml), water (8.00 ml) and lithium hydroxide (0.86 g, 35.9 mmol) were added, and the reaction was stirred at 60° C. for 2 h. The reaction was cooled and the pH was adjusted to 3-4 by addition of 2N hydrochloric acid (18.00 ml, 36 mmol). The resulting precipitate was filtered, washed with water and diethyl ether, and dried to give 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylic acid (6.1937 g, 18.25 mmol, 67.4% yield. LCMS: (M+H)+: 340.1.

reactant | ethyl 3-hydroxy-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 27.1 mmol, 6.7 g | OC1=CN(C2=CC=C(C=C2C1=O)C(=O)OCC)C | C13H13NO4
reactant | sodium hydride | 54.2 mmol, 2.168 g | [H-].[Na+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 27.3 mmol, 3.7 ml | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | lithium hydroxide | 35.9 mmol, 0.86 g | [OH-].[Li+]
reactant | hydrochloric acid | 36 mmol, 2N, 18.00 ml | Cl | ClH
solvent | N,N-dimethylformamide | 18.0 ml | CN(C=O)C | C3H7NO
solvent | water | 8.00 ml | O | H2O
solvent | Methanol | 24.00 ml | CO | CH4O
product | 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylic acid | 67.4% yield | COC1=CC=C(COC2=CN(C3=CC=C(C=C3C2=O)C(=O)O)C)C=C1 | C19H17NO5
